US06043248
A solution of 2-chloro-3-hydroxy-4-iodo-6-(1-hydroxyethyl)-pyridine (3.6 g, 12 mmol) in 36 mL of N,N-dimethylformamide is treated with bis(triphenylphosphine)-palladium dichloride (632 mg, 0.9 mmol) and tetravinyltin (2.7 mL, 15 mmol) and heated at 50° C. for 24 h and at room temperature for 40 h. The mixture is poured into 300 mL of ethyl acetate, filtered through a celite pad and the filtrate is washed with 4×50 mL of saturated sodium chloride. The organics are concentrated in vacuo and the crude material is chromatographed over 150 g of silica gel (230-400 mesh), eluting with 25% ethyl acetate/hexanes to provide 1.68 g (70%) of 2-chloro-3-hydroxy-4-vinyl-6-(1-hydroxyethyl)-pyridine.

reactant | 2-chloro-3-hydroxy-4-iodo-6-(1-hydroxyethyl)-pyridine | 12 mmol, 3.6 g | ClC1=NC(=CC(=C1O)I)C(C)O | C7H7ClINO2
reactant | tetravinyltin | 15 mmol, 2.7 mL | C(=C)[Sn](C=C)(C=C)C=C
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)-palladium dichloride | 0.9 mmol, 632 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-3-hydroxy-4-vinyl-6-(1-hydroxyethyl)-pyridine | 1.68 g, 70% | ClC1=NC(=CC(=C1O)C=C)C(C)O | C9H10ClNO2
